US07049342B2
2-[5-(2-ethoxycarbonyl)butyl-2-methoxyphenyl]-acetic acid
Benzyl 2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate (1.85 g, 4.84 mmol), 5% palladium on carbon (400 mg), tetrahydrofuran (50 mL) and ethanol (50 mL) were mixed and hydrogenation was carried out for 8 hours at room temperature. The catalyst was removed by filtration and the filtrate was concentrated to afford 1.42 g (100%) of the title compound as a yellow oily product.

reactant | Benzyl 2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate | 4.84 mmol, 1.85 g | CCOC(=O)C(=CCC)C=1C=CC(=C(C1)CC(=O)OCC1=CC=CC=C1)OC | C23H26O5
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 2-[5-(2-ethoxycarbonyl)butyl-2-methoxyphenyl]-acetic acid | 1.42 g, 100% | CCOC(=O)CCCCC=1C=CC(=C(C1)CC(=O)O)OC | C16H22O5
